US06060038
A three neck flask fitted with a reflux condenser and an addition funnel was charged with 3,5-dinitrobenzyl alcohol (10 g, 50 mmol), 10% Pd/C (630 mg) and triethylamine (35 mL, 251 mmol). This was placed in a 70° C. oil bath and through the addition funnel was added 90% formic acid (10 mL, 234 mmol) dropwise. The reaction was heated for 30 minutes and cooled to room temperature. The clear yellow supernatant was filtered through celite and the lower layer containing the catalyst was treated with acetone, filtered through celite and rinsed with acetone. The filtered organic layers were combined and concentrated to give an orange oil. The oil was diluted in ethyl acetate which was washed with H2O, dried (MgSO4), filtered and concentrated to give crude 3-amino-5-nitrobenzyl alcohol as an orange solid.

reactant | 3,5-dinitrobenzyl alcohol | 50 mmol, 10 g | [N+](=O)([O-])C=1C=C(CO)C=C(C1)[N+](=O)[O-] | C7H6N2O5
reactant | triethylamine | 251 mmol, 35 mL | C(C)N(CC)CC | C6H15N
reactant | formic acid | 234 mmol, 10 mL | C(=O)O | CH2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 630 mg | [Pd] | Pd
product | 3-amino-5-nitrobenzyl alcohol | NC=1C=C(CO)C=C(C1)[N+](=O)[O-] | C7H8N2O3
